US09359329B2
To a solution of 3.8 g (21.5 mmol) of 6-chloropyridine-3-carbonyl chloride in 100 mL of toluene, in Dean-stark apparatus, are added portionwise 2.5 g (21.5 mmol) N-hydroxy-2,2-dimethylpropanimidamide, and the reaction medium is stirred for 2 hours at room temperature and then heated for 2 hours. After cooling to room temperature, the medium is concentrated under reduced pressure and purified by chromatography on silica gel, eluting with a cyclohexane/EtOAc gradient of from 0 to 10% EtOAc. 4.1 g of 5-(3-tert-butyl-1,2,4-oxadiazol-5-yl)-2-chloropyridine are obtained in the form of a white solid.

reactant | 6-chloropyridine-3-carbonyl chloride | 21.5 mmol, 3.8 g | ClC1=CC=C(C=N1)C(=O)Cl | C6H3Cl2NO
reactant | N-hydroxy-2,2-dimethylpropanimidamide | 21.5 mmol, 2.5 g | ONC(C(C)(C)C)=N | C5H12N2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(3-tert-butyl-1,2,4-oxadiazol-5-yl)-2-chloropyridine | 4.1 g, Yield=81% | C(C)(C)(C)C1=NOC(=N1)C=1C=CC(=NC1)Cl | C11H12ClN3O
